US08003662B2
Step B: Preparation of 1-methyl-4-((5-(tributylstannyl)furan-2-yl)methyl)piperazine:
A round-bottomed flask was charged with 1-((5-bromofuran-2-yl)methyl)-4-methylpiperazine (1.29 g, 4.88 mmol), and THF (20 mL). The solution was cooled to −78° C. in a dry ice/acetone bath. tert-Butyllithium (6.56 mL, 10.5 mmol; 1.6 M in pentane) was added, and the reaction mixture was stirred for 30 minutes. Tributylchlorostannane (1.12 mL, 4.15 mmol) was added the reaction mixture was stirred for 30 minutes. The reaction mixture was quenched by adding pH 7 phosphate buffer (20 mL) and warming to room temperature. The reaction mixture was extracted with EtOAc (50 mL), washed with brine (2×50 mL), dried over sodium sulfate, filter and concentrate. Purify by Biotage 40S (EtOAc). Isolated product (1.20 g, 52%) as a green oil. 1H NMR (CDCl3, 400 MHz) δ 6.47 (d, J=3.1 Hz, 1H), 6.21 (d, J=2.3 Hz, 1H), 3.62 (s, 2H), 2.50 (br s, 8H), 2.27 (s, 3H), 1.53 (m, 6H), 1.33 (m, 6H), 1.06 (m, 6H), 0.88 (m, 9H).

reactant | 1-((5-bromofuran-2-yl)methyl)-4-methylpiperazine | 4.88 mmol, 1.29 g | BrC1=CC=C(O1)CN1CCN(CC1)C | C10H15BrN2O
reactant | tert-Butyllithium | 10.5 mmol, 1.6 M, 6.56 mL | C(C)(C)(C)[Li]
reactant | Tributylchlorostannane | 4.15 mmol, 1.12 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-methyl-4-((5-(tributylstannyl)furan-2-yl)methyl)piperazine | CN1CCN(CC1)CC=1OC(=CC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H15N2O.3C4H9.Sn/c1-11-4-6-12(7-5-11)9-10-3-2-8-13-10;3*1-3-4-2;/h2-3H,4-7,9H2,1H3;3*1,3-4H2,2H3;
